US06958351B2
A mixture of 3R*4S*7-benzyloxy-3-[4-(4-fluorophenyl)-4-hydroxy-piperidin-1-yl]-chroman-4-ol (0.80 g, 1.78 mmol), 10% palladium on carbon (0.16 g), methanol (40 mL), and acetic acid (0.8 mL) was hydrogenated for 8 hours with a starting pressure of 48.5 psi. The reaction was filtered through celite and the filtrate was concentrated. The residue was stirred vigorously with ether and saturated sodium bicarbonate for 1 hour. The solid was washed with water and ether and dried in vacuo. Recrystallization from ethanol yielded 0.35 g (54%) of 3R*4S*3-[4-(4-fluorophenyl)-4-hydroxy-piperidin-1-yl]-chroman-4,7-diol as a white solid which had mp 159-160° C.; NMR DMSO∂σ δ7.55-7.47 (m, 2H), 7.11 (t, J=9 Hz, 2H), 7.02 (d, J=8.4 Hz, 1H)k, 6.32 (dd, J=2.3, 8.3 Hz, 1H), 6.15 (d, J=2.3 Hz 1H), 5.10-4.50 (br m with s at 4.63, 3H), 4.23 (dd, J=2.8, 10.3 Hz, 1H), 4.04 (t, J=10.5 Hz, 1H), 2.99 (br d, J=10.8 Hz, 1H), 2.86 (br d, J=10.7 Hz, 1H), 2.73-2.50 (m, 3H), 2.08-1.90 (m, 2H), 1.58 (br d, J=13 Hz, 2H).

reactant | 7-benzyloxy-3-[4-(4-fluorophenyl)-4-hydroxy-piperidin-1-yl]-chroman-4-ol | 1.78 mmol, 0.80 g | C(C1=CC=CC=C1)OC1=CC=C2C(C(COC2=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)F)O | C27H28FNO4
reactant | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 0.16 g | [Pd] | Pd
solvent | acetic acid | 0.8 mL | C(C)(=O)O | C2H4O2
product | 3-[4-(4-fluorophenyl)-4-hydroxy-piperidin-1-yl]-chroman-4,7-diol | 0.35 g, 54% | FC1=CC=C(C=C1)C1(CCN(CC1)C1COC2=CC(=CC=C2C1O)O)O | C20H22FNO4
